US06720320B2
(S)-α-(2′-(3-(4-(4-chloro-3-trifluoromethylphenyl)piperidino) -2-hydroxypropyloxy)benzylidene)-γ-butyrolactone hydrochloride monohydrate
The reaction was performed in same manner as in Example 307 using (S)-α-(2′-(2,3-epoxypropan-1-yloxy)benzylidene)-γ-butyrolactone (1.0 g) and 4-(4-chloro-3-trifluoromethylphenyl) -piperidine (0.8 g) in methanol (50 ml), and the obtained oil was treated with methanol/hydrochloric acid to give the title compound (0.45 g), melting point 172-174° C.

reactant | (S)-α-(2′-(2,3-epoxypropan-1-yloxy)benzylidene)-γ-butyrolactone | 1.0 g | O1[C@H](COC2=C(C=C3C(=O)OCC3)C=CC=C2)C1 | C14H14O4
reactant | 4-(4-chloro-3-trifluoromethylphenyl) -piperidine | 0.8 g | ClC1=C(C=C(C=C1)C1CCNCC1)C(F)(F)F | C12H13ClF3N
reactant | methanol hydrochloric acid | CO.Cl
solvent | methanol | 50 ml | CO | CH4O
product | (S)-α-(2′-(3-(4-(4-chloro-3-trifluoromethylphenyl)piperidino) -2-hydroxypropyloxy)benzylidene)-γ-butyrolactone hydrochloride monohydrate | 0.45 g | O.Cl.ClC1=C(C=C(C=C1)C1CCN(CC1)C[C@@H](COC1=C(C=C2C(=O)OCC2)C=CC=C1)O)C(F)(F)F | InChI=1S/C26H27ClF3NO4.ClH.H2O/c27-23-6-5-18(14-22(23)26(28,29)30)17-7-10-31(11-8-17)15-21(32)16-35-24-4-2-1-3-19(24)13-20-9-12-34-25(20)33;;/h1-6,13-14,17,21,32H,7-12,15-16H2;1H;1H2/t21-;;/m0../s1
